US06521666B1
To a mixture of 2-thienylboronic acid (1.135 g) and anhydrous K2CO3 (2.23 g) in toluene/DMF (75 mL/7.5 mL) under N2 was added a solution of N-(tert-butoxycarbonyl)-O-(trifluoromethanesulfonyl)-L-tyrosine methyl ester (3.42 g) in 5 mL of toluene. Pd(PPh3)4 (1.4 g) was added and the mixture was heated at 80° C. for 24 h. After usual work-up as shown in Example 1 the crude material was purified by flash column chromatography (silica gel; eluent: EtOAc/hexane 1:3) to yield N-(tert-butoxycarbonyl)-4-(2-thienyl)-L-phenylalanine methyl ester(1.81 g). ESMS: m/z 362 (MH+).

reactant | 2-thienylboronic acid | 1.135 g | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | K2CO3 | 2.23 g | C(=O)([O-])[O-].[K+].[K+]
reactant | N-(tert-butoxycarbonyl)-O-(trifluoromethanesulfonyl)-L-tyrosine methyl ester | 3.42 g | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F)=O | C16H20F3NO7S
solvent | toluene DMF | 75 mL | C1(=CC=CC=C1)C.CN(C)C=O
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 1.4 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-(tert-butoxycarbonyl)-4-(2-thienyl)-L-phenylalanine methyl ester | 1.81 g | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)C=1SC=CC1)=O | C19H23NO4S
